US07022851B2
[2-(Benzyloxycarbonyl)-amino-6-iodopurin-9-yl]-acetic acid
To a suspension of [2-(benzyloxycarbonyl)-amino-6-iodo-purine-9-yl]-acetic acid ethyl ester (10.02 g, 20.8 mmol) in tetrahydrofuran (50 mL) and water (50 mL) was added lithium hydroxide hydrate (2.83 g, 20.8 mmol) at 10° C. The resulting reaction mixture was stirred for 30 min. Then the mixture was acidified to pH=3 by adding 1N HCl. The precipitated solid was filtered off, washed with water and ethyl ether, and dried in vacuo to give the title compound (9.81 g). 1H-NMR (500 MHz; DMSO-d6) δ 10.75 (s, 1H), 8.44 (s, 1H), 7.50˜7.30 (m, 5H), 5.17 (s, 2H), 4.97 (s, 2H).

reactant | [2-(benzyloxycarbonyl)-amino-6-iodo-purine-9-yl]-acetic acid ethyl ester | 20.8 mmol, 10.02 g | C(C)OC(CN1C2=NC(=NC(=C2N=C1N)I)C(=O)OCC1=CC=CC=C1)=O | C17H16IN5O4
reactant | lithium hydroxide hydrate | 20.8 mmol, 2.83 g | O.[OH-].[Li+]
reactant | HCl | 1N | Cl | ClH
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | water | 50 mL | O | H2O
product | [2-(Benzyloxycarbonyl)-amino-6-iodopurin-9-yl]-acetic acid | 9.81 g | C(C1=CC=CC=C1)OC(=O)C1=NC(=C2N=C(N(C2=N1)CC(=O)O)N)I | C15H12IN5O4
